US08440652B2
A solution of 4-(5-amino-6-bromopyrazin-2-yl)-N-cyclopropylbenzenesulfonamide (150 mg, 0.41 mmol), 6-(trimethylstannyl)-3,4-dihydro-2,7-naphthyridin-1(2H)-one (150 mg, 0.48 mmol) and Pd(PPh3)4 (23 mg, 0.02 mmol) in dioxane (2 mL) was heated in the microwave 20 min at 150° C. At completion, the reaction mixture was purified by reverse phase preparatory HPLC to provide 4-(5-amino-6-(8-oxo-5,6,7,8-tetrahydro-2,7-naphthyridin-3-yl)pyrazin-2-yl)-N-cyclopropylbenzenesulfonamide (8 mg, 5% yield) as an orange solid after lyophilization. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.02 (s, 1H), 8.87 (s, 1H), 8.59 (s, 1H), 8.35 (d, J=8.5 Hz, 2H), 8.17 (br. s., 1H), 7.84-7.99 (m, 3H), 3.51 (t, 2H), (t, J=6.3 Hz, 2H), 0.29-0.57 (m, 4 H); MS (EI) m/z=437.5 [M+1]+.

reactant | 4-(5-amino-6-bromopyrazin-2-yl)-N-cyclopropylbenzenesulfonamide | 0.41 mmol, 150 mg | NC=1N=CC(=NC1Br)C1=CC=C(C=C1)S(=O)(=O)NC1CC1 | C13H13BrN4O2S
reactant | 6-(trimethylstannyl)-3,4-dihydro-2,7-naphthyridin-1(2H)-one | 0.48 mmol, 150 mg | C[Sn](C=1C=C2CCNC(C2=CN1)=O)(C)C
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(5-amino-6-(8-oxo-5,6,7,8-tetrahydro-2,7-naphthyridin-3-yl)pyrazin-2-yl)-N-cyclopropylbenzenesulfonamide | 8 mg, 5% yield | NC=1N=CC(=NC1C=1N=CC=2C(NCCC2C1)=O)C1=CC=C(C=C1)S(=O)(=O)NC1CC1 | C21H20N6O3S
